Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with no significant PMHx presented to the ___ ED 
on ___ with fever and back pain since ___. On day of 
presentation also developed fever to 102.4 and mild suprapubic 
pain. No dysuria, urinary hesitancy or incontinence. She denied 
headache, neck pain, cough, chest pain, dyspnea. No ___ weakness, 
numbness, tingling. No history of IV drug use or recent travel.  

 Prior to going to ED, patient took APAP with some relief of her 
pain.  
 In the ED, initial vitals were: T 101.2, HR 146, BP 167/85, RR 
18, O2 100% RA  
 Labs notable for: WBC 14.3 with 80.7% PMNs; glucose of 135. 
Lactate=1.6. Urine hCG negative.  
 UA with large ___, 28 WBC, few bacteria, 3 epis, 1 RBC with neg 
blood, neg nitrites.  
 Imaging notable for:  
 - MRI spine w/ and w/o contrast: No etiology identified for the 
patient's reported symptoms. Specifically, no evidence of 
discitis, osteomyelitis, or epidural abscess.  
 Patient was given:  
 - ___ 23:08 IVF 1000 mL NS 1000 mL  
 - ___ 00:24 IVF 1000 mL NS 1000 mL  
 - ___ 02:02 IV Ciprofloxacin 400 mg  
 - ___ 03:21 PO Acetaminophen 1000 mg  
 - ___ 04:21 IV Ondansetron 4 mg  
 - ___ 04:25 IVF 1000 mL NS 1000 mL  
 Vitals prior to transfer: T 100.1, HR 106, BP 138/72, RR 16, O2 
100% RA.  
 On the floor,  
 
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
 Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
 
Past Medical History:
h/o recurrent UTIs as a child, no anatomic abnormalities noted
 
Social History:
___
Family History:
 +HTN in father.  
 Denies family history of kidney disease, nephrolithiasis. 
 
Physical Exam:
Admission Exam:
General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 
Discharge Exam:
Vital Signs: T 98.5-101.4 BP 100s-130s/60s-70s HR ___ RR 
___ O2 98-100% RA  
 General: Alert, oriented, no acute distress.
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple with no limitation of flexion or extension. No LAD.  

 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Symmetric chest wall expansion, nonlabored breathing, 
lungs CTAB, no wheezes, rales, rhonchi  
 Abdomen: Soft, non-tender, non-distended, normoactive BS, no 
palpable masses  
 Back: NO CVA tenderness  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Neuro: Nonfocal

 
Pertinent Results:
Admission:
___ 11:10PM BLOOD WBC-14.3* RBC-4.51 Hgb-13.3 Hct-40.8 
MCV-91 MCH-29.5 MCHC-32.6 RDW-11.7 RDWSD-38.5 Plt ___
___ 11:10PM BLOOD Neuts-80.7* Lymphs-8.4* Monos-9.6 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-11.56* AbsLymp-1.20 
AbsMono-1.37* AbsEos-0.08 AbsBaso-0.04
___ 11:10PM BLOOD Glucose-135* UreaN-6 Creat-0.6 Na-137 
K-3.6 Cl-100 HCO3-24 AnGap-17
___ 11:10PM BLOOD ALT-12 AST-18 LD(LDH)-187 AlkPhos-88 
TotBili-0.3
___ 02:05AM BLOOD Lactate-1.6
UA with large ___, 28 WBC, few bacteria, 3 epis, 1 RBC with neg 
blood, neg nitrites. 

Interim: 
___ 04:20AM BLOOD WBC-17.1* RBC-3.98 Hgb-12.0 Hct-35.4 
MCV-89 MCH-30.2 MCHC-33.9 RDW-11.8 RDWSD-38.5 Plt ___
___ 03:32PM BLOOD WBC-14.8* RBC-3.98 Hgb-11.7 Hct-36.0 
MCV-91 MCH-29.4 MCHC-32.5 RDW-11.5 RDWSD-38.5 Plt ___
___ 04:20AM BLOOD Glucose-102* UreaN-5* Creat-0.5 Na-136 
K-3.4 Cl-100 HCO3-24 AnGap-15

Discharge:
___ 05:35AM BLOOD WBC-11.6* RBC-4.18 Hgb-12.3 Hct-38.2 
MCV-91 MCH-29.4 MCHC-32.2 RDW-11.7 RDWSD-39.2 Plt ___
___ 04:20AM BLOOD Glucose-102* UreaN-5* Creat-0.5 Na-136 
K-3.4 Cl-100 HCO3-24 AnGap-15

Microbiology:

___ 12:20 am URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------  =>32 R     =>32 R
AMPICILLIN/SULBACTAM--    16 I     =>32 R
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------  <=16 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R     =>16 R

Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by ___ System, 
APTIMA COMBO 2
      Assay. 

   NEISSERIA GONORRHOEAE (___), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Negative for Neisseria gonorrhoeae by PANTHER System, 
APTIMA COMBO 2
      Assay. 

Imaging:
___
EXAMINATION:  MR ___ AND W/O CONTRAST ___ MR SPINE
INDICATION:  Fever and sacral pain.  Evaluate for abscess.
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique,
followed by axial T2 imaging. This was followed by sagittal and 
axial T1
images obtained after the uneventful intravenous administration 
of 6 mL of
Gadavist  contrast agent.
COMPARISON:  None.
FINDINGS: 
Alignment is normal.  Vertebral body and intervertebral disc 
signal intensity
appear normal. The spinal cord appears normal in caliber and 
configuration.
There is no evidence of spinal canal or neural foraminal 
narrowing.  There is
no evidence of infection or neoplasm.  There is no abnormal 
contrast
enhancement.
 
Right ovary demonstrates follicular activity.  The visualized 
retroperitoneum
is unremarkable.  There is trace free pelvic fluid, as well as 
trace fluid
seen at the inferior hepatic margin, which is likely physiologic 
in a female
patient of this age.
 
IMPRESSION: 
Normal contrast-enhanced lumbar spine MR without evidence of 
infection.

___ Renal U/S:  Normal Renal U/S
 
Brief Hospital Course:
___ y/o F with distant PMH of recurrent UTIs as a child, was in 
her USOH until presenting at ___ ED with 2 days of back pain, 
fever, and mild suprapubic pain, no dysuria. MRI spine r/o 
epidural abscess, pt admitted for pyelonephritis, started on IV 
Cipro. Was tachycardic to 150s intermittently, which responded 
to IVF. Had one episode of dysuria during hospitalization. Had 
continued fevers and leukocytosis, WBC count peaked at 17.1 and 
downtrended to 11.6 by day of d/c. Renal u/s was normal and 
further testing was deferred as pt clinically improved. Remained 
hemodynamically stable. On day of discharge, antibiotics were 
transitioned to oral Cipro for ___ulture data revealed E Coli, >100k CFU/mL, sensitive to Cipro. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO/NG Q12H Duration: 9 Doses 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*9 Tablet Refills:*0 
2.  Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you at ___ 
___.

Why did you come to the hospital?
-You had severe back pain and your family was concerned that you 
might have a urinary tract infection.

What happened while you were in the hospital?
-You were treated with antibiotics for an infection of your 
kidneys called pyelonephritis. We think you had this because you 
had symptoms of a UTI but also severe back pain, fevers, and a 
urine test that showed signs of infection.
-We gave you fluids because you were dehydrated.

What should you do when you leave the hospital?
-Finish taking your antibiotics to treat your infection.
-See your primary care doctor.
-___ lots of fluids!!!  Your urine should look clear. This 
will help keep you hydrated. 

Best Wishes,
Your ___ Team
 
Followup Instructions:
___